US04952722
3-Hydroxy-5-(5,6,7,8-tetrahydro-2-naphthyl)cyclohex-2-en-1-one (2 6 g; 11.0 mmole) was added to a solution of sodium hydride (0.47 g of 60% w/w; 12.0 mmole) in dry dimethylformamide (10 ml) under an atmosphere of nitrogen. The mixture was stirred under nitrogen until a solution had been obtained and propionic anhydride was added dropwise and the mixture was heated to 120° C. The mixture was stirred at 120° C. under nitrogen for a period of 2 hours and then the solvent was evaporated under reduced pressure. The mixture was treated with dichloromethane (20 ml) and the soluble portion of the residue was chromatrographed over silica gel (eluant dichloromethane) to give 3-hydroxy-2-propionyl-5-(5,6,7,8-tetrahydro-2-naphthyl)cyclohex-2-en-1-one (0.86 g; 26.2%) as a yellow solid, mp 87° C.

reactant | 3-Hydroxy-5-(5,6,7,8-tetrahydro-2-naphthyl)cyclohex-2-en-1-one | 11.0 mmole, 6 g | OC1=CC(CC(C1)C1=CC=2CCCCC2C=C1)=O | C16H18O2
reactant | sodium hydride | 12.0 mmole, 0.47 g | [H-].[Na+]
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-2-propionyl-5-(5,6,7,8-tetrahydro-2-naphthyl)cyclohex-2-en-1-one | 0.86 g, 26.2% | OC1=C(C(CC(C1)C1=CC=2CCCCC2C=C1)=O)C(CC)=O | C19H22O3
